US07939524B2
b) (1R,2S,7R,8S)-N-{3-[3-(4-Fluoro-benzyl)-6-hydroxy-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-sulfamide
The crude benzyl [N-{3-[(1R,2S,7R,8S)-3-(4-fluoro-benzyl)-6-hydroxy-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-sulfamoyl]carbamate was dissolved in methanol (5 mL) and the mixture was degassed and backfilled with nitrogen (3×). Palladium on carbon (10% dry, 180 mg) was added and the mixture was degassed and backfilled with hydrogen gas via balloon. The mixture was stirred at 25° C. for 16 h. The mixture was passed through a plug of Celite and the filtrate was concentrated in vacuo to afford the crude product, which was further purified by prep-HPLC [Column Luna 5μ C18 (2) 100 Å AXIA 150×21.2 mm, 5 micron, 30%-95% in 7 min 30 mL/min flow rate, 0.05% trifluoroacetic acid in acetonitrile/0.05% trifluoroacetic acid in water] to afford the desired product, (1R,2S,7R,8S)-N-{3-[3-(4-fluoro-benzyl)-6-hydroxy-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6 benzo[1,2,4]thiadiazin-7-yl}-sulfamide (55.7 mg, 0.099 mmol, 58.7% over two steps), as a white solid. 1H NMR (400 MHz, DMSO-d6) δ: 1.19-1.24 (2H, m), 1.40-1.60 (4H, m), 2.51-2.54 (1H, m), 2.64-2.65 (1H, m), 3.04 (1H, d, J=9.3 Hz), 3.53 (1H, d, J=9.3 Hz), 4.42 (1H, d, J=15.7 Hz), 4.96 (1H, d, J=15.6 Hz), 7.15 (2H, m), 7.31-7.34 (H, m), 7.43 (1H, dd, J1=9.4 Hz, J2=2.3 Hz), 7.51-7.55 (2H, m), 9.96 (1H, s). LC-MS (ESI) calcd for C24H24FN5O6S 561.12, found 562.5 [M+H+]. Anal. calcd for C24H24FN5O6S.0.5H2O: C, 50.51; H, 4.42; N, 12.27; found: C, 50.42, H, 4.35; N, 11.90.

reactant | benzyl [N-{3-[(1R,2S,7R,8S)-3-(4-fluoro-benzyl)-6-hydroxy-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-sulfamoyl]carbamate | FC1=CC=C(CN2[C@H]3[C@@H]4CC[C@H]([C@H]3C(=C(C2=O)C2=NS(C3=C(N2)C=CC(=C3)NS(=O)(=O)NC(OCC3=CC=CC=C3)=O)(=O)=O)O)C4)C=C1 | C32H30FN5O8S2
solvent | methanol | 5 mL | CO | CH4O
product | (1R,2S,7R,8S)-N-{3-[3-(4-fluoro-benzyl)-6-hydroxy-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6 benzo[1,2,4]thiadiazin-7-yl}-sulfamide | 0.099 mmol, 55.7 mg, 58.7% | FC1=CC=C(CN2[C@H]3[C@@H]4CC[C@H]([C@H]3C(=C(C2=O)C2=NS(C3=C(N2)C=CC(=C3)NS(=O)(=O)N)(=O)=O)O)C4)C=C1 | C24H24FN5O6S2
